US20010027196A1
5-Chloro-4-furan-2-yl-6-(3-phenyl-propoxy)-pyrimidin-2-yl-amine
From 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, 3-phenyl-1-propanol and DBU in dioxane. ES-MS m/e (%): 332 (M{37Cl}+H+, 50), 330 (M{35C,}+H+, 100).

reactant | 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | ClC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8ClN3O2S
reactant | 3-phenyl-1-propanol | C1(=CC=CC=C1)CCCO | C9H12O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Chloro-4-furan-2-yl-6-(3-phenyl-propoxy)-pyrimidin-2-yl-amine | ClC=1C(=NC(=NC1OCCCC1=CC=CC=C1)N)C=1OC=CC1 | C17H16ClN3O2
